US07452911B2
3.45a 6-bromo-2-bromomethyl-quinoline
148 mg (1.00 mmol) α,α-azoisobutyronitrile and 8.01 g (45.0 mmol) N-bromosuccinimide are added successively to a solution of 10.0 g (45.0 mmol) 6-bromo-2-methyl-quinoline in 60 mL carbon tetrachloride. The reaction mixture is refluxed for 8 h. It is filtered and the filtrate is washed twice with water. The organic phase is dried over MgSO4 and the solvent is eliminated i.vac. The purification is carried out by column chromatography on silica gel (PE/EtOAc 4:1).

reactant | α,α-azoisobutyronitrile | 1.00 mmol, 148 mg | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
reactant | N-bromosuccinimide | 45.0 mmol, 8.01 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 6-bromo-2-methyl-quinoline | 45.0 mmol, 10.0 g | BrC=1C=C2C=CC(=NC2=CC1)C | C10H8BrN
solvent | carbon tetrachloride | 60 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 6-bromo-2-bromomethyl-quinoline | BrC=1C=C2C=CC(=NC2=CC1)CBr | C10H7Br2N
